US07544702B2
1-[4-(Piperidine-1-sulfonyl)-phenylsulfanyl]-hexan-2-one (35)
Dithiocarbonic acid O-ethyl ester S-[4-(piperidine-1-sulfonyl)-phenyl]ester (1.24 g, 3.6 mmol) in ethanol (5 mL) and water (0.5 mL) was heated to 60° C. to form a solution. The flask was removed from the oil bath and KOH (561 mg, 10 mmol) added portionwise (exothermic reaction). The mixture was heated to 111° C. for one hour and 33 was added (553 mg, 4.13 mmol)The reaction mixture was then heated to 110° C. for 3 hours. The mixture was allowed to cool to r.t. and a saturated aqueous solution of ammonium chloride added (20 mL). The aqueous phase was extracted with EtOAc, the combined organics dried, and the solvent evaporated in vacuo. The resultant crude product 35 was taken on without purification. Mass Spectrum m/e=356.0 (M+1)

reactant | Dithiocarbonic acid O-ethyl ester S-[4-(piperidine-1-sulfonyl)-phenyl]ester | 3.6 mmol, 1.24 g | N1(CCCCC1)S(=O)(=O)C1=CC=C(C=C1)SC(OCC)=S | C14H19NO3S3
reactant | KOH | 10 mmol, 561 mg | [OH-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 0.5 mL | O | H2O
product | 1-[4-(Piperidine-1-sulfonyl)-phenylsulfanyl]-hexan-2-one | N1(CCCCC1)S(=O)(=O)C1=CC=C(C=C1)SCC(CCCC)=O | C17H25NO3S2
